US06740662B1
A DMF solution of 3-(3-chlorobenzoyl)-6-dimethoxymethyl-2-ethylaminopyridine was treated with sodium hydride at 0° C. and then monoethyl chloroglutarate was added thereto, followed by heating at 80° C. under stirring. Thereafter, the reaction mixture was worked up in a usual manner. The resulting compound was dissolved in ethanol and sodium methoxide was added thereto at 0° C., followed by heating under reflux for 1 hour. The reaction mixture was cooled to 0° C. and then concentrated sulfuric acid was added thereto, followed by heating under reflux for 1 hour. Thereafter, the reaction mixture was worked up in a usual manner. The resulting compound was dissolved in dioxane and 6M hydrochloric acid was added thereto at 0° C. and, after being warmed to room temperature, the whole was stirred for 3 hours. Thereafter, the reaction mixture was worked up in a usual manner to obtain 3-[4-(3-chlorophenyl)-1-ethyl-7-formyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoic acid. NMR1: 10.12 (1H, s), 7.70 (1H, d, J=8.1 Hz), 1.44 (3H, t, J=6.9 Hz).

reactant | 3-(3-chlorobenzoyl)-6-dimethoxymethyl-2-ethylaminopyridine | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C(OC)OC)NCC)C=CC1 | C17H19ClN2O3
reactant | sodium hydride | [H-].[Na+]
reactant | monoethyl chloroglutarate | ClC(C(=O)OCC)CCC(=O)[O-]
reactant | sodium methoxide | C[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[4-(3-chlorophenyl)-1-ethyl-7-formyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoic acid | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C=O)CC)=O)CCC(=O)O | C20H17ClN2O4
